US06884801B1
Triphenylphosphine, polymer bound, (5.3 g, 3 mmol/g, Fluka Chimica, Buchs, Switzerland) was scurried in toluene (75 mL). A solution of 2-azido-2′-nitroacetophenone (2.18 g, 10.6 mmol) and acetyl chloride (0.848 g, 10.8 mmol) in toluene (25 mL) was added at room temperature, under a nitrogen atmosphere. The solution was stirred at room temperature for six hours, then filtered over celite. All volatiles were removed from the filtrate by evaporation under reduced pressure to yield 0.91 g of crude 2-methyl-5-(2-nitrophenyl)oxazole. Crude 2-methyl-5-(2-nitrophenyl)oxazole (0.905 g, 4.44 mmol) was reduced as in Example 64, and the product purified by silica chromatography to give 0.51 g of 5-(2-aminophenyl)-2-methyloxazole.

reactant | Triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-azido-2′-nitroacetophenone | 10.6 mmol, 2.18 g | N(=[N+]=[N-])CC(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C8H6N4O3
reactant | acetyl chloride | 10.8 mmol, 0.848 g | C(C)(=O)Cl | C2H3ClO
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 2-methyl-5-(2-nitrophenyl)oxazole | 0.91 g | CC=1OC(=CN1)C1=C(C=CC=C1)[N+](=O)[O-] | C10H8N2O3
